US05574044
. A stirred solution of 1.2 g of 1,3-dihydro-1-{trans-4-[1-ethoxycarbonyl-4-piperidinylamino]-1-cyclohexyl}-2H-benzimidazol-2-one in 20 mL of 6N HCl was heated to reflux for 12 h, cooled and basified with 6N NaOH. The basic mixture was extracted with 2×50 mL portions of chloroform. The combined organic extracts were dried over MgSO4 and concentrated under reduced pressure. After drying overnight under vacuum, there was obtained 0.51 g of 1,3-dihydro-1-{trans -4-[4-piperidinylamino]-1-cyclohexyl}-2H-benzimidazol-2-one as a white solid: 1H NMR (400 MHz, CDCl3) 7.33 (m, 1H), 7.11 (m, 1H), 7.04 (m, 2H), 4.37 (m, 1H), 3.16 (m, 3H), 2.61-2.52 (m, 5H), 2.0 (d, 2H), 1.86 (d, 2H), 1.64 (m, 4H), 1.3 (m, 2H).

reactant | 1,3-dihydro-1-{trans-4-[1-ethoxycarbonyl-4-piperidinylamino]-1-cyclohexyl}-2H-benzimidazol-2-one | 1.2 g | C(C)OC(=O)N1CCC(CC1)N[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC=C2)=O | C21H30N4O3
reactant | NaOH | 6N | [OH-].[Na+]
solvent | HCl | 6N, 20 mL | Cl | ClH
product | 1,3-dihydro-1-{trans -4-[4-piperidinylamino]-1-cyclohexyl}-2H-benzimidazol-2-one | 0.51 g | N1CCC(CC1)N[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC=C2)=O | C18H26N4O
